data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6225,"CI.COC1=CC2=C(C=C1)CCN1C(=O)C=C3C=CC([O-:1])CC321.O.[K+:2]|(1, 2)"
train,pmechdb_split_0,0,373,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.O=C(O)C1CC(O)C[NH:3]1.OCC1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,705,"C1CC[C:1](=[O:2])[CH:3]([H:4])C1.[OH-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4017,"CCCC1CC2=C(C(=O)C1(CCC(C)=O)[CH:1]=[O:2])C(O)=C(OC)C=C2.O.[Na][OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9870,"C=C[C:1](OC(C)=O)=[O:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7730,"O.O=C1C[NH2+:1][C:2](C2=NC=CC=C2)([OH:3])C2=C(C=CC=C2)N1.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5737,"CC(C)(C)[NH2:1].N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8647,"CCOC(=O)CC(CC(=O)OCC)(OCCO)[O:1][B-](F)(F)F.CCOCC.OCC[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1407,"[H:1][AlH3-:2].[Li][O+:3]=[C:4]1CCC(C(C)(C)C)CC1(C)C|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7477,"CC[S-:1].O=C1CC[CH:2]=[C:3]1Br|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3296,"C[CH:1]([N+](=O)[O-])[H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4451,"COC1=C([NH3+])C=CC([C:1](O)=[OH+:2])=C1.C[OH:3].O=S(=O)([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9188,"NC1=C(CC#[C-:1])C=CC=C1.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3552,"CC(=O)[O-:1].C[Si:2](C)(C)[O+]=C1CCCCC1|(1, 2)"
train,pmechdb_split_0,0,2242,"C=[O+:1][H:2].C[Si-](C)(C)(Cl)[O:3][C:4](C)=[NH:5]|(3, 4);((4, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6190,"N#C[CH:1]([N+](=O)[O-])[H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1859,"CCCC[OH+:1][H:2].CCCC[O][Al-]([CH2]C(C)C)([CH2]C(C)C)[O:3]CCCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7314,"CC1CC(C)[CH:1]=[C:2]1C.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6119,"CC1=CC=C(C2CC3(C)C(=O)CCC3C3CCC4=CC(=[O:1])CCC4=C23)C=C1.C[C:2](Br)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6468,"CC[O+:1]=[C:2]=CC(O)C(C)(C)C[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,141,"C=CO[C+:1]1C=CC=C[C:2]1(C(C)OC1=CC=CC=C1)[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3501,"O[P:1](O)O.[I:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4898,"CO[C+:1]1C=C[C:2](N=NC2=CC=CC=C2)([H:3])[CH:4]=[CH:5]1.[Cl-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,999,"CCO[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.C[CH+:5]C|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,4983,"CC(C1=CC(OC2CCCC2)=CC=C1)[O-:1].[Cl][Mg+:2]|(1, 2)"
train,pmechdb_split_0,0,6585,"CCO[C:1](=[CH2:2])[O-:3].CO[C:4](C)=[O:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3082,"C1=CC=[NH+]C=C1.CC1=CN(C2CC(O[P:1](O)(OCCC#N)(OC3CC(N4C=C(C)C(=O)NC4=O)OC3COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[I:2])C(C)O2)C(=O)NC1=O.[I-]|((1, 2), 2)"
train,pmechdb_split_0,0,9126,"CC(C)CC[N:1](CCCl)C[CH2:2][Cl:3].CCNC(C)C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6690,"Br[B:1](Br)Br.C[O:2]C1=C2OC3C(=O)CCC4(O)C5CC(=C2C34CCN5C2CCCCC2)C=C1|(2, 1)"
train,pmechdb_split_0,0,1970,"CC[OH+:1][C:2](CCC(=O)NC)(OC)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1031,"COC1=CC=CC(CCC[C:1](=[CH:2]CC2(C)C(=O)CCC2=O)[O-:3])=C1.[H:4][OH:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9062,"C1CCOC1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCCCCO.CCCCCCCCO[C:1](C1=CC(O)=C(O)C=C1)([OH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1649,"CCOC(=O)C[C:1](C)=[O:2].C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8146,"C[C:1](C1=CC=C(I)C=C1)([CH:2]=[C:3](C1=CC=C(I)C=C1)[O-:4])[OH:5]|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,8064,"COC(=O)C1CC[C:1](=[OH+:2])CC1.OCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5539,"CC(=O)C1=CC2=C(C=C1)[CH:1]=[CH:2]C=C2.C[CH+:3]C|((2, 1), 3)"
train,pmechdb_split_0,0,3452,"C[Si](C)(C)C[CH:1]=[CH:2]COCC[CH2+:3]|((1, 2), 3)"
train,pmechdb_split_0,0,6317,"C1=CCC2CCC(C1)C2=N[O-:1].CC1=CC=C([S:2](=O)(Cl)=[O:3])C=C1.O.[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6899,"C[Si](C)(C)C[C:1]#[C:2]CC(C[CH:3]=[O+:4][Zn-]([Cl])[Cl])C1=CC=CC=C1.[Cl-]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1412,"C1CCC2=[N:1]CCCN2CC1.CC1(O)N=NN(C2=CC=CC=C2)[C:2]1([H:3])[C:4](C)=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9587,"C[O:1]C(O)CC1=CC=CC=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8692,"CC(=O)C1=CC=C[C:1](S(=O)(=O)O)([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5039,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CC1=CC=CC=C1.O=C1CC(C(O)=[O:3])C1.OCC1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7147,"N#CC=[N-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3971,"C[CH:1]([H:2])[C+:3](C)C.O=P(O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5782,"CN1CC(=O)N[C:1](=[O:2])[CH:3]1[H:4].NC=[O:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,88,"CC(C)[N](C(C)C)[Li:1].COC(CCC12C3NC4C(CCC45CCCC51)C2(C)CCC3C(C)C)=[O:2]|(2, 1)"
